US08044066B2
7.1 ethyl 1-(3-pyridyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate
This compound was prepared according to the experimental protocol described in Example 6.1, starting with ethyl 1H-pyrrolo[2,3-b]pyridine-2-carboxylate obtained according to the protocol described in step 3.2 and 3-iodopyridine. A yellow solid is obtained.

reactant | ethyl 1H-pyrrolo[2,3-b]pyridine-2-carboxylate | N1C(=CC=2C1=NC=CC2)C(=O)OCC | C10H10N2O2
reactant | 3-iodopyridine | IC=1C=NC=CC1 | C5H4IN
product | ethyl 1-(3-pyridyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate | N1=CC(=CC=C1)N1C(=CC=2C1=NC=CC2)C(=O)OCC | C15H13N3O2
